US07915270B2
1-(5-(3-Methylpyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(3-methylpyridin-2-yl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (130 mg, 0.196 mmol) and 2-bromo-3-methylpyridine following General Procedure A. Flash chromatography (10% EtOAc/hexanes) yielded the title compound as a thick oil (28 mg, 40%): 1H NMR (CDCl3, 400 MHz) δ 8.52 (dd, 1H, J=4.7, 1.5 Hz), 7.57 (ddd, 1H, J=7.6, 1.4, 0.6 Hz), 7.55 (s, 1H), 7.29-7.24 (m, 2H), 7.18-7.15 (m, 4H), 4.89 (dd, 1H, J=7.6, 5.9 Hz), 2.59 (t, 2H, J=7.8 Hz), 2.55 (s, 3H), 1.93 (m, 2H), 1.61 (m, 2H), 1.36 (m, 4H), 0.89 (s, 9H), 0.10 (s, 3H), −0.02 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 165.6, 150.9, 147.1, 146.0, 142.8, 139.3, 130.3, 128.3, 128.2, 127.1, 125.5, 122.6, 68.6, 36.5, 35.9, 31.4, 29.1, 25.7, 25.7, 25.1, 20.4, 18.2, −5.0, −5.2.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(3-methylpyridin-2-yl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC=C1C | C28H40N2O2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.196 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-bromo-3-methylpyridine | BrC1=NC=CC=C1C | C6H6BrN
product | 1-(5-(3-Methylpyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one | 28 mg, 40% | CC=1C(=NC=CC1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H24N2O2
